US06313117B1
(a) 4-Phenyl-cyclohexanecarboxylic acid
To a mixture of AlCl3 (13 g, 97.5 mmol, 1.0 equiv) in benzene (100 mL) kept at 35° C., was added 1-cyclohexenecarboxylic acid (5 g, 39.7 mmol, 0.41 equiv) dropwise. After addition was complete, the reaction solution was heated to 70° C. for 1 h and 45° C. overnight. The reaction was cooled, and 200 mL of 1 N HCl was slowly added. The product was extracted with EtOAc. The organic layer was extracted with 1 N NaOH and the aqueous layer was acidified with concentrated HCl to produce a white precipitate that was collected by filtration, washed with water and dried to give the titled compound as a white solid (3.1 g, 38%) which was used without further purification.

reactant | AlCl3 | 97.5 mmol, 13 g, 1.0 equiv | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1-cyclohexenecarboxylic acid | 39.7 mmol, 5 g, 0.41 equiv | C1(=CCCCC1)C(=O)O | C7H10O2
reactant | HCl | 1 N, 200 mL | Cl | ClH
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 4-Phenyl-cyclohexanecarboxylic acid | 3.1 g, 38% | C1(=CC=CC=C1)C1CCC(CC1)C(=O)O | C13H16O2
